US04016269
200 mg. of 3-methoxy-1,3,5(10),15-estratetraen-17α-ol is agitated for 3 hours in 2.5 ml. of pyridine with 0.5 ml. of acetic anhydride. After the product has been worked up as described in Example 4 and purified by preparative layer chromatography (eluent: hexane/ethyl acetate = 7 : 3), 170 mg. of 17α-acetoxy-3-methoxy-1,3,5(10),15-estratetraene is isolated as an oily product.

reactant | 3-methoxy-1,3,5(10),15-estratetraen-17α-ol | COC1=CC=2CC[C@H]3[C@@H]4C=C[C@H]([C@@]4(C)CC[C@@H]3C2C=C1)O | C19H24O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17α-acetoxy-3-methoxy-1,3,5(10),15-estratetraene | C(C)(=O)O[C@H]1[C@]2(C)[C@@H](C=C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C21H26O3
